US08309562B2
(4-Isopropoxy-phenyl)-methyl-(2-methyl-6-nitro-quinazolin-4-yl)-amine
The title compound was synthesized from 4-chloro-2-methyl-6-nitro-quinazoline and (4-isopropoxy-phenyl)-methyl-amine by a procedure similar to Example 1b. 1H NMR (DMSO-d6) δ 8.5-7.1 (7H), 4.73 (m, 1H), 3.7 (s, 3H), 2.7 (s, 3H), 1.32 (d, 6H); LC-MS (ESI+; 353 ([M+H]+)).

reactant | 4-chloro-2-methyl-6-nitro-quinazoline | ClC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])C | C9H6ClN3O2
reactant | (4-isopropoxy-phenyl)-methyl-amine | C(C)(C)OC1=CC=C(C=C1)NC | C10H15NO
product | (4-Isopropoxy-phenyl)-methyl-(2-methyl-6-nitro-quinazolin-4-yl)-amine | C(C)(C)OC1=CC=C(C=C1)N(C1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])C)C | C19H20N4O3
